US08071588B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(4-methylhexahydro-1H-1,4-diazepin-1-yl)methyl]-3-biphenylyl}methyl)propanediamide
To N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]propanediamide (30 mg, 0.051 mmol) was added 1-methylhexahydro-1H-1,4-diazepine (5.16 mg, 0.051 mmol) followed by NaB(OAc)3H (36.4 mg, 0.172 mmol) and AcOH (4.91 μL, 0.086 mmol) in dimethyl sulfoxide (DMSO) (0.5 mL). The mixture was stirred overnight at room temperature. The reaction was quenched with saturated NaHCO3 and extracted with EtOAc (3×1 mL). Combined organic layers were washed with saturated NaCl, dried (Na2SO4) and concentrated. The crude products were redissolved in MeOH/DMSO (1/1) and purified by Gilson HPLC (acidic conditions) and basified with an amine cartridge to afford 22.9 mg (62%) of the title compound. LC-MS m/z 681 (M+H)+.

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]propanediamide | 0.051 mmol, 30 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)C=O)=O)CC | C33H38N6O4
reactant | 1-methylhexahydro-1H-1,4-diazepine | 0.051 mmol, 5.16 mg | CN1CCNCCC1 | C6H14N2
reactant | NaB(OAc)3H | 0.172 mmol, 36.4 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 0.086 mmol, 4.91 μL | CC(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(4-methylhexahydro-1H-1,4-diazepin-1-yl)methyl]-3-biphenylyl}methyl)propanediamide | 22.9 mg, 62% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN2CCN(CCC2)C)=O)CC | C39H52N8O3
